US05086065
1-Hydroxy-2-dimethoxymethyl-4-nitrobenzene
2-Hydroxy-5-nitrobenzaldehyde (3.34 g) was dissolved in methanol (30 ml). Trimethyl orthoformate (20 ml) and then Dowex 50W×8 (H+ form)(generally 2 ml) were added to this solution. The mixture was stirred for 30 min. at room temperature. The resin was removed from the reaction mixture by passing the mixture through an alumina. The filtrate was evaporated to give the title compound (4.0 g) having the following physical data.

reactant | 2-Hydroxy-5-nitrobenzaldehyde | 3.34 g | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | Trimethyl orthoformate | 20 ml | C(OC)(OC)OC | C4H10O3
solvent | methanol | 30 ml | CO | CH4O
product | 1-Hydroxy-2-dimethoxymethyl-4-nitrobenzene | 4.0 g | OC1=C(C=C(C=C1)[N+](=O)[O-])C(OC)OC | C9H11NO5
